US04005099
A solution of 2-[[7-chloro-5-(2-pyridyl)-3H-1,4-benzodiazepin-2-yl]amino]propionaldehyde dimethyl acetal in monoglyme is treated with titanium tetrachloride first at room temperature, then under reflux. The reaction mixure is cooled, neutralized, and extracted with chloroform. The chloroform layer is concentrated in vacuo and the resulting residue crystallized to give 8-chloro-2-methyl-6-(2-pyridyl)-4H-imidazo[1,2-a][1,4]benzodiazepine.

reactant | 2-[[7-chloro-5-(2-pyridyl)-3H-1,4-benzodiazepin-2-yl]amino]propionaldehyde dimethyl acetal | COC(C(C)NC1=NC2=C(C(=NC1)C1=NC=CC=C1)C=C(C=C2)Cl)OC | C19H21ClN4O2
solvent | monoglyme | C(OC)COC | C4H10O2
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
product | 8-chloro-2-methyl-6-(2-pyridyl)-4H-imidazo[1,2-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C=C(N3)C)C3=NC=CC=C3)C1 | C17H13ClN4
